US04602936
With cooling, 7.9 g of 97% 1,8-diazabicyclo[5.4.0]undec-7-ene are added to a suspension of 5.7 g of 98% 2-mercaptopyrimidine in 50 ml of acetonitrile. To the yellowish solution so obtained are added 10.3 g of 2-chloromethylbenzenesulfonamide. The reaction solution is stirred for 70 hours at 20°-22° C. and then diluted with 1 liter of water. The precipitate is isolated by filtration and dried, affording 12.0 g (85% of theory) of 2-(2-sulfamoylphenylmethylthio)pyrimidine of m.p. 128°-130° C.

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 7.9 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-mercaptopyrimidine | 5.7 g | SC1=NC=CC=N1 | C4H4N2S
reactant | 2-chloromethylbenzenesulfonamide | 10.3 g | ClCC1=C(C=CC=C1)S(=O)(=O)N | C7H8ClNO2S
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | 1 liter | O | H2O
product | 2-(2-sulfamoylphenylmethylthio)pyrimidine | 12.0 g, 85% | S(N)(=O)(=O)C1=C(C=CC=C1)CSC1=NC=CC=N1 | C11H11N3O2S2
